US09421205B2
(g) tert-Butyl 3-ethynylbenzoate (I17)
To a solution of tert-butyl 3-((trimethylsilyl)ethynyl)benzoate (I16) (4.40 g, 16.0 mmol) in THF (100 mL) at 0° C. under nitrogen was added 1.0 M TBAF in THF (20.0 mL, 20.0 mmol). The mixture was then stirred at 0° C. for 1 hour then 16 hours at room temperature. The mixture was then concentrated under reduced pressure, diluted with ethyl acetate (100 mL) and washed with water (3×100 mL). The organic extract was then purified using silica gel column chromatogaphy (0-5% EtOAc/petroleum benzine 40-60° C.) to give the title compound (I17) (2.72 g, 84%) as a pale yellow oil; 1H NMR (400 MHz, CDCl3) δ 8.09 (dd, J=1.5, 1.5 Hz, 1H), 7.97 (ddd, J=7.9, 1.5, 1.5 Hz, 1H), 7.63 (ddd, J=7.7, 1.4, 1.4 Hz, 1H), 7.38 (ddd, J=7.8, 7.8, 0.5 Hz, 1H), 3.11 (s, 1H), 1.59 (s, 9H).

reactant | tert-butyl 3-((trimethylsilyl)ethynyl)benzoate | 16.0 mmol, 4.40 g | C[Si](C)(C)C#CC=1C=C(C(=O)OC(C)(C)C)C=CC1 | C16H22O2Si
reactant | TBAF | 1.0 M | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 20.0 mmol, 20.0 mL | C1CCOC1 | C4H8O
product | tert-Butyl 3-ethynylbenzoate | 2.72 g, 84% | C(#C)C=1C=C(C(=O)OC(C)(C)C)C=CC1 | C13H14O2
